US05589478
To a solution of 2-(6-chloropyrimidin-4-yloxy)ethanol (5.61 g) in dimethylformamide (60 ml) is added sodium azide (4.18 g), and the mixture is stirred at 70° C. for 20 hours. After cooling, the reaction solution is treated with water, and extracted with ethyl acetate. The ethyl acetate layer is dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane/ethyl acetate=1:1) to give 2-(6-azidopyrimidin-4-yloxy)ethanol (1.68 g).

reactant | 2-(6-chloropyrimidin-4-yloxy)ethanol | 5.61 g | ClC1=CC(=NC=N1)OCCO | C6H7ClN2O2
reactant | sodium azide | 4.18 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(6-azidopyrimidin-4-yloxy)ethanol | 1.68 g | N(=[N+]=[N-])C1=CC(=NC=N1)OCCO | C6H7N5O2
